US07402684B2
5-Phenyl-thiophene-2-carbaldehyde:
A mixture of 5-bromo-thiophene-2-carbaldehyde (2.0 g, 10.5 mmol), phenylboronic acid (17 g, 11 mmol), K2CO3 (8.7 g, 62.8 mmol) and 10% Pd/C (0.56 g) in isopropanol/H2O (1:1, 40 mL) was refluxed for 5 h. The reaction mixture was filtered through a pad of Celite. After the isopropanol was removed, the product was collected on a filter, washed with hexane and dried in vacuo to yield the title compound (1.9 g, 82%).

reactant | 5-bromo-thiophene-2-carbaldehyde | 10.5 mmol, 2.0 g | BrC1=CC=C(S1)C=O | C5H3BrOS
reactant | phenylboronic acid | 11 mmol, 17 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | K2CO3 | 62.8 mmol, 8.7 g | C(=O)([O-])[O-].[K+].[K+]
solvent | isopropanol H2O | 40 mL | C(C)(C)O.O
catalyst | Pd/C | 0.56 g | [Pd] | Pd
product | 5-Phenyl-thiophene-2-carbaldehyde | 1.9 g, 82% | C1(=CC=CC=C1)C1=CC=C(S1)C=O | C11H8OS
